US04894385
Methyl 4-[1-(2-chlorophenyl)-2-(imidazol-1-yl)ethylthio]benzoate
6.4 g of methyl 4-mercaptobenzoate were dissolved in 45 ml of dry dimethylformamide, and 1.7 g of a 55% w/w suspension of sodium hydride in mineral oil was added to the resulting solution, whilst ice-cooling. The resulting mixture was then stirred at room temperature for 30 minutes, after which a solution of 9.2 g of 1-[2-chloro-2-(2-chlorophenyl)ethyl]imidazole in 45 ml of dry dimethylformamide was added to the resulting solution, and the reaction mixture was heated at 50° C. for 6.5 hours. At the end of this time, the resulting solution was treated and purified in a similar manner to that described in Example 1, to give 8.08 g of the title compound as an oil.

reactant | methyl 4-mercaptobenzoate | 6.4 g | SC1=CC=C(C(=O)OC)C=C1 | C8H8O2S
reactant | sodium hydride | [H-].[Na+]
reactant | 1-[2-chloro-2-(2-chlorophenyl)ethyl]imidazole | 9.2 g | ClC(CN1C=NC=C1)C1=C(C=CC=C1)Cl | C11H10Cl2N2
solvent | dimethylformamide | 45 ml | CN(C=O)C | C3H7NO
solvent | dimethylformamide | 45 ml | CN(C=O)C | C3H7NO
product | Methyl 4-[1-(2-chlorophenyl)-2-(imidazol-1-yl)ethylthio]benzoate | 8.08 g | ClC1=C(C=CC=C1)C(CN1C=NC=C1)SC1=CC=C(C(=O)OC)C=C1 | C19H17ClN2O2S
